US06384287B1
Preparation of 1,1-bis(1-isobutoxyethylperoxy)cyclohexane
To a stirred solution of 30 g of 1,1-dihydroperoxycyclohexane in ethylacetate was added 0.4 g p-toluene sulfonic acid. Then 19.6 g isobutyl vinyl ether were added in 10 min, the reaction temperature being kept at 20° C. by cooling with an ice-water bath. The mixture was stirred for 60 min. The mixture was washed with sodium bicarbonate solution and dried on MgSO4. Yield 35 g of product with an active oxygen content of 6.75% Chemical yield:67%.

reactant | 1,1-dihydroperoxycyclohexane | 30 g | O(O)C1(CCCCC1)OO | C6H12O4
reactant | p-toluene sulfonic acid | 0.4 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | isobutyl vinyl ether | 19.6 g | C(=C)OCC(C)C | C6H12O
reactant | ethylacetate | C(C)OC(C)=O | C4H8O2
product | 1,1-bis(1-isobutoxyethylperoxy)cyclohexane | yield:67% | C(C(C)C)OC(C)OOC1(CCCCC1)OOC(C)OCC(C)C | C18H36O6
